US07592358B2
IP 7b. (3R,4S)-1-benzyl-4-methylpiperidin-3,4-diol
14 g of AD-Mix-Alpha in 50 mL of water and 50 mL of tert-butanol were placed under a nitrogen atmosphere and the mixture was stirred for 20 minutes at RT. Subsequently it was cooled to 0° C., 0.95 g (10.0 mmol) of methanesulfonic acid amide and 1.87 g (10.0 mmol) of 1-benzyl-4-methyl-1,2,3,6-tetrahydropyridine were added, the cooling bath was removed, and the reaction mixture was stirred for 24 hours at RT. 3.5 g of sodium sulfite was added to the reaction mixture which was stirred for 1 hour. 200 mL of DCM and 200 ML of saturated sodium bicarbonate solution were added, and the organic phase was separated off and extracted with 100 mL of KHSO4 solution. The aqueous phase was made alkaline with saturated potassium carbonate solution, extracted with 200 mL EtOAc, and the organic phase was dried over sodium sulfate. After the desiccant and solvent had been eliminated, the crude product was purified by chromatography (silica gel, EtOAc/MeOH/NH3 19:1:0.1). Yield: 1.23 g (56% of theoretical); C13H19NO2 (M=221.296); calc.: molpeak (M+H)+: 222; found: molpeak (M+H)+: 222; Rf value: 0.56 (silica gel, EtOAc/MeOH/NH3 19:1:0.1).

reactant | AD-Mix-Alpha | 14 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonic acid amide | 10.0 mmol, 0.95 g | CS(=O)(=O)N | CH5NO2S
reactant | 1-benzyl-4-methyl-1,2,3,6-tetrahydropyridine | 10.0 mmol, 1.87 g | C(C1=CC=CC=C1)N1CCC(=CC1)C | C13H17N
reactant | water | 50 mL | O | H2O
solvent | tert-butanol | 50 mL | C(C)(C)(C)O | C4H10O
product | (3R,4S)-1-benzyl-4-methylpiperidin-3,4-diol | C(C1=CC=CC=C1)N1C[C@H]([C@](CC1)(O)C)O | C13H19NO2
